US08633173B2
{8-[2-(2,2-Difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-amine was prepared from 7-{8-[2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.388 g, 0.725 mmol) and trifluoroacetic acid (1 mL) in a manner analogous to Example 312 to give product (0.264 g, 84%). MP=87-90° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.46 (s, 1H), 8.75 (d, 1H), 7.65 (m, 2H), 7.42 (m, 2H), 7.35 (s, 1H), 7.25 (m, 1H), 7.15 (m, 1H), 7.05 (m, 1H), 6.98 (m, 1H), 6.22 (br m, 1H), 4.32 (m, 2H), 2.70 (br m, 9H). MS=436 (MH)+.

reactant | 7-{8-[2-(2,2-difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 0.725 mmol, 0.388 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC=C1)OCC(F)F)=N2 | C29H31F2N5O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | {8-[2-(2,2-Difluoro-ethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-amine | FC(COC1=C(C=CC=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC1=C(CCNCC1)C=C2)F | C24H23F2N5O
